US04720500
Phenyl isocyanate (15.5 g) is added to a solution of 2-amino-7-chloro-1,8-naphthyridine (17.9 g) in anhydrous tetrahydrofuran (600 cc) and the mixture is heated for 15 hours at approximately 60° C. After cooling the mixture, the crystallized solid is separated by filtration, washed with ethyl ether (3×50 cc) and air-dried. A crude product (25.2 g), m.p. 270° C., is obtained. This product (15 g) is purified under the following conditions: the product is dissolved in a mixture of dimethylformamide (200 cc) and acetonitrile (125 cc). After cooling for 5 hours at 20° C., the crystallized solid is separated by filtration, washed with acetonitrile (3×50 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-N'-phenylurea (10.1 g), m.p. 276° C., is obtained.

reactant | Phenyl isocyanate | 15.5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | tetrahydrofuran | 600 cc | O1CCCC1 | C4H8O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-N'-phenylurea | 10.1 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)NC1=CC=CC=C1 | C15H11ClN4O
